US07449456B2
A 5 ml portion of 1-methyl-2-pyrrolidone solution of 400 mg of 4-benzylamino-2-[(4-piperazin-1-ylphenyl)amino]pyrimidine-5-carboxamide was mixed with 0.12 ml of ethyl bromoacetate and 200 mg of potassium carbonate, followed by stirring at room temperature for 30 minutes. The reaction mixture was mixed with water, and the organic layer was extracted with ethyl acetate-THF mixed solvent. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and then the residue obtained by evaporating the solvent was washed with methanol to obtain ethyl[4-(4-{[5-(aminocarbonyl)-4-(benzylamino)pyrimidin-2-yl]amino}phenyl)piperazin-1-yl]acetate as a pale brown solid.

reactant | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
reactant | 4-benzylamino-2-[(4-piperazin-1-ylphenyl)amino]pyrimidine-5-carboxamide | 400 mg | C(C1=CC=CC=C1)NC1=NC(=NC=C1C(=O)N)NC1=CC=C(C=C1)N1CCNCC1 | C22H25N7O
reactant | ethyl bromoacetate | 0.12 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | ethyl[4-(4-{[5-(aminocarbonyl)-4-(benzylamino)pyrimidin-2-yl]amino}phenyl)piperazin-1-yl]acetate | C(C)OC(CN1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCC1=CC=CC=C1)C(=O)N)=O | C26H31N7O3
